Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],8.62862625158
[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.952847726080001
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:8][H:9].[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-3.67753652867
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[O:10][H:11].[H:6],2.47657267137
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-3.56249749
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-0.924937716098
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])=[C:5][H:6],4.583963648819999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.41440772758
[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.31274187491
[H:1].[O:2]=[C:3]([H:4])/[C:5]=[C:6](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.78429254739
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11],0.24047811007
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[C:4]([H:5])[O:6][H:7].[O:1]=[C:2][H:3],3.89437622535
[C:7](=[C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],1.47999997
[C:1][C:2]([O:3][H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][H:4].[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.30009195734
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.50565570666
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12]>>[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12].[H:1][C:2]=[C:3]([H:4])[H:5],1.0175558916299998
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]1[C:5][O:6][C:7]1=[C:8]([H:9])[H:10],-1.77471696224
[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-3.70284130086
[C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-6.97754102796
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.7141364107
[C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.94969448385
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-2.7962449213200005
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.6590251617
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14],4.964191702130001
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.1290320142
[H:1][C:2](=[C:3]1[C:4]([H:5])([H:6])[C:7][C:8]1([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2](=[C:7]\[C:8]([C:3]=[C:4]([H:5])[H:6])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],0.25378656566
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2],5.96121397123
[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.07790715478
